US05332807
Preparation of N-Methoxy-N-methyl-2-(R)-methyl-3-(R)-benzyloxy-4-(S)-methyl-5-t-butyldimethylsiloxypentanamide
This material is prepared from N-methoxy-N-methyl-2-(R)-methyl-3-(R)-hydroxy-4-(S)-methyl-5-t-butyldimethylsiloxypentanamide using the reagent benzyltrichloroacetimidate and following the procedure described by Bundle et al. in J. C. S. Chem. Comm. 1981, 1240.

reactant | N-methoxy-N-methyl-2-(R)-methyl-3-(R)-hydroxy-4-(S)-methyl-5-t-butyldimethylsiloxypentanamide | CON(C([C@@H]([C@@H]([C@H](CO[Si](C)(C)C(C)(C)C)C)O)C)=O)C | C15H33NO4Si
reactant | benzyltrichloroacetimidate | C(C1=CC=CC=C1)OC(C(Cl)(Cl)Cl)=N | C9H8Cl3NO
product | N-Methoxy-N-methyl-2-(R)-methyl-3-(R)-benzyloxy-4-(S)-methyl-5-t-butyldimethylsiloxypentanamide | CON(C([C@@H]([C@@H]([C@H](CO[Si](C)(C)C(C)(C)C)C)OCC1=CC=CC=C1)C)=O)C | C22H39NO4Si
